US08022222B2
A mixture of 1-chloropropan-2-one (1.01 g, 11 mmol), 1-(5-bromo-4-(2,6-difluorophenoxy)pyridin-2-yl)thiourea (3.24 g, 9.0 mmol), triethylamine (1.41 g, 14 mmol) and ethanol (15 mL) is heated at reflux for 16 hours. The reaction mixture is cooled and partitioned between ethyl acetate and water. The organic layer is washed with water and brine, dried and concentrated. The residue is purified via chromatography to afford N-(5-bromo-4-(2,6-difluorophenoxy)pyridin-2-yl)-4-methylthiazol-2-amine.

reactant | 1-chloropropan-2-one | 11 mmol, 1.01 g | ClCC(C)=O | C3H5ClO
reactant | 1-(5-bromo-4-(2,6-difluorophenoxy)pyridin-2-yl)thiourea | 9.0 mmol, 3.24 g | BrC=1C(=CC(=NC1)NC(=S)N)OC1=C(C=CC=C1F)F | C12H8BrF2N3OS
reactant | triethylamine | 14 mmol, 1.41 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | N-(5-bromo-4-(2,6-difluorophenoxy)pyridin-2-yl)-4-methylthiazol-2-amine | BrC=1C(=CC(=NC1)NC=1SC=C(N1)C)OC1=C(C=CC=C1F)F | C15H10BrF2N3OS
